US04096263
A solution of 2-benzimidazolinone (11.0 g.) and conc. hydrochloric acid (1 drop) in phosphorus oxychloride (126 g.) was stirred for 14 hours at 110° C. After cooling, the mixture was concentrated under reduced pressure to remove excess phosphorus oxychloride. Water was added to the residue and sodium bicarbonate was added thereto to neutralize the mixture. The resulting mixture was extracted four times with ethyl acetate. The combined ethyl acetate extracts were washed with water and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give crystals of 2-chlorobenzimidazole (11.0 g.). To the crystals were added aminoacetaldehyde diethyl acetal (35.5 g.) and dried toluene (80 ml.) and the resulting solution was stirred for 17 hours at 115° C. After cooling, the reaction mixture was extracted by adding a sodium bicarbonate aqueous solution and ethyl acetate. The aqueous layer was further extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with water and a saturated sodium chloride aqueous solution and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give oil. The oil was crystallized by adding benzene and hexane to give 2-benzimidazolylaminoacetaldehyde diethyl acetal (11.0 g.), mp 117° to 121° C. The mother liquor was purified by column chromatography on silica gel (100 g.) using a mixture of ethyl acetate and benzene (1:1) to give the same compound (1.5 g.).

reactant | 2-benzimidazolinone | 11.0 g | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | phosphorus oxychloride | 126 g | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | hydrochloric acid | 1 drop | Cl | ClH
product | 2-chlorobenzimidazole | 11.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
